US08975254B2
1,5-Dimethyl-1H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
1,5-Dimethyl-1H-pyrazole-3-carboxylic acid (100 mg, 0.71 mmol) was dissolved in dry DMF (2 ml). EDCl (205 mg, 1.1 mmol), HOBt (145 mg, 1.1 mmol) and DIPEA (0.19 ml, 141 mg, 1.1 mmol) were added at RT. The solution was stirred for 30 min. Then, 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride (313 mg, 1.1 mmol) dissolved in the mixture of dry DMF (4 ml) and DIPEA (0.19 ml, 141 mg, 1.1 mmol) was added to the solution at RT. After stirring overnight water was added. The product was extracted into ethyl acetate. The organic phase was washed with water, dried and evaporated. The crude product was purified by flash chromatography using CH2Cl2-MeOH as a gradient eluent (100:0-95:5). Another purification was done also by flash chromatography using CH2Cl2-MeOH as a gradient eluent (100:0-99.7:0.3). The product was triturated in heptane-CH2Cl2 at RT. 1H NMR (400 MHz, DMSO-d6): 2.26 (3H, s), 2.92 (2H, t), 3.52 (2H, m), 3.76 (3H, s), 6.31 (1H, d), 6.38 (1H, s), 7.01 (1H, d), 7.60 (1H, distorted dd), 7.64 (1H, distorted d), 7.83 (1H, d), 8.09 (1H, t).

reactant | 1,5-Dimethyl-1H-pyrazole-3-carboxylic acid | 0.71 mmol, 100 mg | CN1N=C(C=C1C)C(=O)O | C6H8N2O2
reactant | EDCl | 1.1 mmol, 205 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.1 mmol, 145 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.1 mmol, 0.19 ml, 141 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride | 1.1 mmol, 313 mg | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
reactant | DIPEA | 1.1 mmol, 0.19 ml, 141 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1,5-Dimethyl-1H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=NN(C(=C1)C)C | C18H17Cl2N3O2
